US08067590B2
4-Benzyloxy-1-{2-[3-fluoro-4-(4-hydroxy-4-methyl-piperidin-1-ylmethyl)-phenyl]-2-oxo-ethyl}-1H-pyridin-2-one is prepared as example 1.1b from 105 mg (0.24 mmol) 4-benzyloxy-1-[2-(4-bromomethyl-3-fluoro-phenyl)-2-oxo-ethyl]-1H-pyridin-2-one (preparation 16 h) and 84 mg (0.73 mmol) 4-hydroxy-4 methyl-piperidine.

reactant | 4-benzyloxy-1-[2-(4-bromomethyl-3-fluoro-phenyl)-2-oxo-ethyl]-1H-pyridin-2-one | 0.24 mmol, 105 mg | C(C1=CC=CC=C1)OC1=CC(N(C=C1)CC(=O)C1=CC(=C(C=C1)CBr)F)=O | C21H17BrFNO3
reactant | 4-hydroxy-4 methyl-piperidine | 0.73 mmol, 84 mg | OC1(CCNCC1)C | C6H13NO
product | 4-Benzyloxy-1-{2-[3-fluoro-4-(4-hydroxy-4-methyl-piperidin-1-ylmethyl)-phenyl]-2-oxo-ethyl}-1H-pyridin-2-one | C(C1=CC=CC=C1)OC1=CC(N(C=C1)CC(=O)C1=CC(=C(C=C1)CN1CCC(CC1)(C)O)F)=O | C27H29FN2O4
